US08138197B2
Methyl 4-bromo-3,5-dihydroxybenzoate
In a 2.0-liter egg plant-type flask, a hydrochloric acid/methanol solution (500 mL) of 4-bromo-3,5-dihydroxybenzoic acid (50 g, 0.21 mol) was stirred with heating under reflux for 6 hours. Methanol was removed under reduced pressure to obtain a crude crystal. This was washed with hexane and chloroform to obtain the title compound as a colorless solid.

reactant | 4-bromo-3,5-dihydroxybenzoic acid | 0.21 mol, 50 g | BrC1=C(C=C(C(=O)O)C=C1O)O | C7H5BrO4
reactant | hydrochloric acid methanol | 500 mL | Cl.CO
product | Methyl 4-bromo-3,5-dihydroxybenzoate | BrC1=C(C=C(C(=O)OC)C=C1O)O | C8H7BrO4
